US07989457B2
To a mixture of 4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid (230 mg, 0.5 mmol) in methylene chloride (5 mL) are added triethyl amine (0.21 mL, 1.51 mmol), DMAP (5.0 mg), 3-amino-propionic acid methyl ester (210.5 mg, 1.51 mmol) and EDCI (290 mg, 1.51 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving methyl 3-(4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionoate (260 mg).

reactant | 4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid | 0.5 mmol, 230 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)C(CCCCCC)OC1=CC=C(C(=O)O)C=C1)(F)F | C26H26F3NO3
reactant | triethyl amine | 1.51 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propionic acid methyl ester | 1.51 mmol, 210.5 mg | COC(CCN)=O | C4H9NO2
reactant | EDCI | 1.51 mmol, 290 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 3-(4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionoate | 260 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)C(CCCCCC)OC1=CC=C(C(=O)NCCC(=O)OC)C=C1)(F)F | C30H33F3N2O4
